US06344476B1
A slurry of N-(2-carbomethoxy-5-tert-butyl-3-thienyl)-N′-(2-nitrophenyl)urea (0.078 g, 0.21 mmol) and 10% Pd/C (0.010 g) in MeOH (15 mL) was stirred under H2 (1 atm.) for 18 h at 20° C. Celite® was added and the slurry was filtered. The resulting solution was concentrated under reduced pressure and the residue was purified by flash chromatography (gradient from 20% EtOAc/hexane to 50% EtOAc/hexane) to afford N-(2-carbomethoxy-5-tert-butyl-3-thienyl)-N′-(2-aminophenyl)urea as a foam (0.060 g, 83%): 1H NMR (CDCl3, partial spectrum) δ1.4 (s, 9H), 3.6 (s, 3H), 6.8-7.3 (m, 4H), 7.8 (s, 1H), 9.6 (s, 1H); FAB-LRMS m/z (rel abundance) 348 (M+H, 34%).

reactant | N-(2-carbomethoxy-5-tert-butyl-3-thienyl)-N′-(2-nitrophenyl)urea | 0.21 mmol, 0.078 g | C(=O)(OC)C=1SC(=CC1NC(=O)NC1=C(C=CC=C1)[N+](=O)[O-])C(C)(C)C | C17H19N3O5S
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 0.010 g | [Pd] | Pd
product | N-(2-carbomethoxy-5-tert-butyl-3-thienyl)-N′-(2-aminophenyl)urea | 0.060 g, 83% | C(=O)(OC)C=1SC(=CC1NC(=O)NC1=C(C=CC=C1)N)C(C)(C)C | C17H21N3O3S
